US07572820B2
B. 1-(2-Hydroxyethyl)-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile
A solution of methyl [5-cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl]acetate (0.200 g, 6.76 mmol) in THF (5 mL) was cooled to 0° C. and treated with LiBH4 (0.51 mL, 2M in THF). After 2 h, the reaction was partitioned between Et2O and water. Drying (Na2SO4), filtration, and concentration was followed by column chromatography (SiO2, hexanes/EtOAc) to afford the title compound (0.137 g): MS (ES) m/z 269 (M+1).

reactant | methyl [5-cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl]acetate | 6.76 mmol, 0.200 g | C(#N)C=1C(=C2C=C(N(C2=CC1)CC(=O)OC)C)C(F)(F)F | C14H11F3N2O2
reactant | LiBH4 | 2M, 0.51 mL | [Li+].[BH4-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(2-Hydroxyethyl)-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | 0.137 g | OCCN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)C | C13H11F3N2O
